US06124323
4-((2-Naphthyl)methyl)pyridine was prepared from 2-bromonaphthalene, n-BuLi and 4-cyanopyridine in two steps as a yellow solid: mp 66-67° C., 1H NMR (CDCl3) 4.13 (s, 2H), 7.14 (d, J=6.0 Hz, 2H), 7.27 (dd, J=5.7 and 1.8 Hz, 1H), 7.42-7.52 (m, 2H), 7.64 (s, 1H), 7.74-7.86 (m, 3H), 8.51 (dd, 4.8 and 1.5 Hz, 2H).

reactant | 2-bromonaphthalene | BrC1=CC2=CC=CC=C2C=C1 | C10H7Br
reactant | n-BuLi | [Li]CCCC
reactant | 4-cyanopyridine | C(#N)C1=CC=NC=C1 | C6H4N2
product | 4-((2-Naphthyl)methyl)pyridine | C1=C(C=CC2=CC=CC=C12)CC1=CC=NC=C1 | C16H13N
